US07230133B2
A solution of 2-nitro-4-trifluoromethyl-phenylamine (5.0 g, 24.3 mmol) in THF (150 mL) was cooled to −78° C. and treated with NaHMDS (53.5 mL of a 1.0 M THF solution, 53 mmol). The solution was stirred for 1 h at −78° C. and then charged with a solution of di-(tert-butyl)dicarbonate (5.3 g, 24.3 mmol) in THF (50 mL); the reaction was allowed to warm to RT in the melting cold bath while stirring for 12 h. The mixture was concentrated in vacuo and the residue was dissolved in EtOAc. This solution was washed with 1N HCl (3×), H2O (2×), and brine (1×) before being dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified via flash chromatography to afford (2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (5.3 g, 71% yield). The entirity of this material was dissolved in MeOH (120 mL). The resultant solution was charged with 5% Pd/C, Degussa style (10 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo to afford (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (4.47 g, 95% yield). 1H-NMR (CD3OD, 300 MHz): δ 1.52 (s, 9H), 6.91 (d, 1H), 7.04 (s, 1H), 7.42 (d, 1H); 19F-NMR (CD3OD, 300 MHz): δ −64.3 (s).

reactant | 2-nitro-4-trifluoromethyl-phenylamine | 24.3 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N | C7H5F3N2O2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-(tert-butyl)dicarbonate | 24.3 mmol, 5.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | (2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 5.3 g, 71% yield | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C12H13F3N2O4
